US05929072
To a solution of 2-nitro-6-fluorobenzaldehyde(1.21 g, 7.16 mmol) in dry methanol (15 ml), was added isopropyl amine (1 ml, 11.4 mmol) and the mixture stirred for 24 hours at room temperature in argon atmosphere. Then NaBH4 (0.3 g, 7.9 mmol) was added and the reaction mixture was stirred for 36 hours. The suspension was neutralized by addition of HCl 5N, then was extracted with diethyl ether (1×100 ml) and dried over MgSO4 and evaporated at reduced pressure to afford N-(1-methylethyl)-(2-nitro-6-fluorophenyl)methylamine as a brown oil.

reactant | 2-nitro-6-fluorobenzaldehyde | 7.16 mmol, 1.21 g | [N+](=O)([O-])C1=C(C=O)C(=CC=C1)F | C7H4FNO3
reactant | isopropyl amine | 11.4 mmol, 1 ml | C(C)(C)N | C3H9N
reactant | NaBH4 | 7.9 mmol, 0.3 g | [BH4-].[Na+]
reactant | HCl | 5N | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | N-(1-methylethyl)-(2-nitro-6-fluorophenyl)methylamine | CC(C)NCC1=C(C=CC=C1F)[N+](=O)[O-] | C10H13FN2O2
